US07763657B2
3-[4-tert-Butyl-2-(tetrahydropyran-4-yloxy)phenyl]propionic acid methyl ester (14.1 mg, 0.044 mmol, 1 eq) and sodium hydroxide (8.8 mg, 0.220 mmole, 5 eq) were added in methanol and H2O. The reaction mixture was stirred for 12 hrs. The reaction mixture was acidified with 5% HCl solution. The reaction mixture was concentrated in vacuo to yield 3-[4-tert-Butyl-2-(tetrahydropyran-4-yloxy)phenyl]propionic acid (13.5 mg, 100%).

reactant | 3-[4-tert-Butyl-2-(tetrahydropyran-4-yloxy)phenyl]propionic acid methyl ester | 0.044 mmol, 14.1 mg, 1 eq | COC(CCC1=C(C=C(C=C1)C(C)(C)C)OC1CCOCC1)=O | C19H28O4
reactant | sodium hydroxide | 0.220 mmole, 8.8 mg, 5 eq | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
solvent | H2O | O | H2O
product | 3-[4-tert-Butyl-2-(tetrahydropyran-4-yloxy)phenyl]propionic acid | 13.5 mg, 100% | C(C)(C)(C)C1=CC(=C(C=C1)CCC(=O)O)OC1CCOCC1 | C18H26O4
